US07511066B2
A. 4-tert-Butyl-2-(1-Boc-piperidin-4-yloxy)benzyl Alcohol
The alcohol may be prepared as follows: To a solution of borane-trimethylamine complex (1.35 mL of a 1 M solution in tetrahydrofuran) in tetrahydrofuran (3 mL) stirring at 0° C., a solution of 4-tert-butyl-2-(1-Boc-piperidine-4-yl-oxy)benzoic acid (0.51 g, 1.35 mmol) in tetrahydrofuran (7 mL) was added slowly via cannula. After the addition was complete the reaction mixture was stirred at room temperature for 4 h, then an additional amount of borane-trimethylamine complex was added (1.35 mL of a 1 M solution in tetrahydrofuran). The reaction mixture was stirred at room temperature for another 2 h. After quenching with ice, the mixture was partitioned between brine and dichloromethane. The organic layer was separated and the aqueous layer was extracted with dichloromethane (3×). The combined organic layers were dried with magnesium sulfate, filtered, and concentrated in vacuo to a residue (0.42 g, 86%) which was identified as the title compound and used directly in the next step without further purification.

reactant | borane-trimethylamine complex | [B-][N+](C)(C)C | C3H9BN
reactant | 4-tert-butyl-2-(1-Boc-piperidine-4-yl-oxy)benzoic acid | 1.35 mmol, 0.51 g | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C21H31NO5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 4-tert-Butyl-2-(1-Boc-piperidin-4-yloxy)benzyl Alcohol | C(C)(C)(C)C1=CC(=C(CO)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C21H33NO4
